US05254732
1.2 millimoles n-butyl lithium were dropped into a solution of 1 millimole bromoanthracene in 5 milliliters diethyl ether at 5° C. The solution was cooled to 0° C, was stirred for 1 hour, and then was cooled further to -78° C.; 1.2 millimoles N-fluorobenzenesulfonimide prepared according to Example 1 above in 5 milliliters tetrahydrofuran were dropped into the mixture which was stirred for 1 hour. The temperature was allowed to rise to 20° C. while stirring was continued. The reaction mixture was quenched by pouring into saturated ammonium chloride solution and extracted with diethyl ether. Fluoroanthracene was obtained in 76% yield.

reactant | n-butyl lithium | 1.2 millimoles | C(CCC)[Li]
reactant | bromoanthracene | 1 millimole | BrC1=CC=CC2=CC3=CC=CC=C3C=C12 | C14H9Br
reactant | N-fluorobenzenesulfonimide | 1.2 millimoles | C1=CC=C(C=C1)S(=O)(=O)N(F)S(=O)(=O)C2=CC=CC=C2 | C12H10FNO4S2
solvent | diethyl ether | 5 milliliters | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 5 milliliters | O1CCCC1 | C4H8O
product | Fluoroanthracene | 76% yield | FC1=CC=CC2=CC3=CC=CC=C3C=C12 | C14H9F
